US06191124B1
1-(6,7,8,9-Tetrahydro-5H-cyclohept[d]-imidazo[2,1-b]thiazol-3-yl ethanone (Formula N-4), 1.87 g, and 3-chlorobenzaldehyde (0.216 g) were condensed following non-critical variations of Example 15 to provide 6,7,8,9-Tetrahydro-[2-(3-chlorophenyl)-ethenyl-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl methanone (Formula N-5, X=3-chloro), (2.72 g), m.p. 137-139°.

reactant | 6,7,8,9-Tetrahydro-5H-cyclohept[d]-imidazo[2,1-b]thiazol-3-yl ethanone | N=1C=C(N2C1SC1=C2CCCCC1)C(C)=O | C12H14N2OS
reactant | 3-chlorobenzaldehyde | 0.216 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | 2-(3-chlorophenyl)-ethenyl-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl methanone | 2.72 g | ClC=1C=C(C=CC1)C=CC(=O)C1=CN=C2SC3=C(N21)CC=CC=C3 | C19H13ClN2OS
